datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C#CC(C)(C(C)C)[N:10](C)C(C)C.Nc1ccc2c(N)c3ccccc3[n+:21]([H:20])c2c1>>C#CC(C)(C(C)C)[N+:10](C)(C(C)C)[H:20].Nc1ccc2c(N)c3ccccc3[n:21]c2c1 10=20;20,21=21",
"CCC(C)C(=O)CC[N:10]1CCOCC1.Nc1ccc([NH2+:21][H:20])c(N)c1>>CCC(C)C(=O)CC[N+:10]1([H:20])CCOCC1.Nc1ccc([NH2:21])c(N)c1 10=20;20,21=21",
"CCOc1ccc([NH:10]c2ccccc2)cc1.CSc1nc(N)c2c(ncn2[C@H]2O[C@H](CO)[C@@H](O)[C@H]2O)[n+:21]1[H:20]>>CCOc1ccc([NH+:10](c2ccccc2)[H:20])cc1.CSc1nc(N)c2c(ncn2[C@H]2O[C@H](CO)[C@@H](O)[C@H]2O)[n:21]1 10=20;20,21=21",
"CO[C@H]1C=CC2=CC[N+:21]3([H:20])CCC(CO)=C(CCO)[C@]23C1.OCCc1cnc(P(c2[nH]c(CCO)c[nH+]2)c2[nH]c(CCO)c[n:10]2)[nH]1>>CO[C@H]1C=CC2=CC[N:21]3CCC(CO)=C(CCO)[C@]23C1.OCCc1cnc(P(c2[nH]c(CCO)c[nH+]2)c2[nH]c(CCO)c[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"c1cc2cc[nH]c2[n:10]c1.c1ccc2[nH+]c(-c3ccc[n+:21]([H:20])c3)[nH]c2c1>>c1cc2cc[nH]c2[n+:10]([H:20])c1.c1ccc2[nH+]c(-c3ccc[n:21]c3)[nH]c2c1 10=20;20,21=21",
"NNC(=O)c1cccc[n:10]1.Oc1cccc2c1-c1c-2cccc1[O:21][H:20]>>NNC(=O)c1cccc[n+:10]1[H:20].Oc1cccc2c1-c1c-2cccc1[O-:21] 10=20;20,21=21",
"C1CC2([NH2:10])CCC1C2.CCC(C)(C)[N+:21](C)(C(C)C)[H:20]>>C1CC2([NH2+:10][H:20])CCC1C2.CCC(C)(C)[N:21](C)C(C)C 10=20;20,21=21",
"CC(C)(C)[N:10](C)C.c1ccc2c(CC3=[N+:21]([H:20])CCN3)cccc2c1>>CC(C)(C)[N+:10](C)(C)[H:20].c1ccc2c(CC3=[N:21]CCN3)cccc2c1 10=20;20,21=21",
"C1CC1[NH2:10].C[NH+](C)Cc1cccc(NC(=O)/C=N/[O:21][H:20])c1>>C1CC1[NH2+:10][H:20].C[NH+](C)Cc1cccc(NC(=O)/C=N/[O-:21])c1 10=20;20,21=21",
"C1CC2CCC[N+:21]2([H:20])C1.COc1cccc(C(=O)CC[N:10]2CCOCC2)c1>>C1CC2CCC[N:21]2C1.COc1cccc(C(=O)CC[N+:10]2([H:20])CCOCC2)c1 10=20;20,21=21",
"Clc1ccc([O-:10])c2ccccc12.OC[C@@H]1O[C@H](n2nnc3cccc([NH2+:21][H:20])c32)C[C@H]1O>>Clc1ccc([O:10][H:20])c2ccccc12.OC[C@@H]1O[C@H](n2nnc3cccc([NH2:21])c32)C[C@H]1O 10=20;20,21=21",
"CC[NH:10]CCN.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC[NH+:10](CCN)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"C=C(C)C=C(C)[O:21][H:20].COc1cccc(/C=N/[O-:10])c1>>C=C(C)C=C(C)[O-:21].COc1cccc(/C=N/[O:10][H:20])c1 10=20;20,21=21",
"CC(=C(C#N)C#N)[O:21][H:20].C[N+](C)(C)[N-:10]C(=O)c1cccc([N+](=O)[O-])c1>>CC(=C(C#N)C#N)[O-:21].C[N+](C)(C)[N:10](C(=O)c1cccc([N+](=O)[O-])c1)[H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].c1c(CN2CCNCC[NH:10]CC2)n[nH]c1CN1CCNCCNCC1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].c1c(CN2CCNCC[NH+:10]([H:20])CC2)n[nH]c1CN1CCNCCNCC1 10=20;20,21=21",
"CCc1c[n:10]ccc1N.[S-]c1nccc[n+:21]1[H:20]>>CCc1c[n+:10]([H:20])ccc1N.[S-]c1nccc[n:21]1 10=20;20,21=21",
"C[N+](C)(C)[O:21][H:20].Cc1cc([NH2:10])cc(C)c1[N+](=O)[O-]>>C[N+](C)(C)[O-:21].Cc1cc([NH2+:10][H:20])cc(C)c1[N+](=O)[O-] 10=20;20,21=21",
"CC(C)=CC(=O)/C=N/[O-:10].O=C(/C(=N\[O:21][H:20])c1ccccc1)c1ccccc1>>CC(C)=CC(=O)/C=N/[O:10][H:20].O=C(/C(=N\[O-:21])c1ccccc1)c1ccccc1 10=20;20,21=21",
"CCOCCn1c(N2CCC[NH+](CCCCn3cc(C(=O)[O:21][H:20])cn3)CC2)[nH+]c2ccccc21.CC[N:10](CC)Cc1cccc(C)c1O>>CCOCCn1c(N2CCC[NH+](CCCCn3cc(C(=O)[O-:21])cn3)CC2)[nH+]c2ccccc21.CC[N+:10](CC)(Cc1cccc(C)c1O)[H:20] 10=20;20,21=21",
"CCCC[NH2+]CC[NH+:21](CCCC)[H:20].CN[NH:10]C>>CCCC[NH2+]CC[NH:21]CCCC.CN[NH+:10](C)[H:20] 10=20;20,21=21",
"CC1=CC(=O)Oc2ccc([O-:10])cc21.Nc1c[n:21]([H:20])nc1[N+](=O)[O-]>>CC1=CC(=O)Oc2ccc([O:10][H:20])cc21.Nc1c[n-:21]nc1[N+](=O)[O-] 10=20;20,21=21",
"C1CNCCNCCC[NH:10]CCNC1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C1CNCCNCCC[NH+:10]([H:20])CCNC1.N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"Nc1nc(N)nc(N/C(Nc2ccccc2)=[NH+:21]/[H:20])n1.O=C([O-])CCCC[NH2:10]>>Nc1nc(N)nc(NC(Nc2ccccc2)=[NH:21])n1.O=C([O-])CCCC[NH2+:10][H:20] 10=20;20,21=21",
"CCCCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1cccc(Cl)c1C(=O)[O:21][H:20].Clc1cccc(Cl)c1[O-:10]>>Cc1cccc(Cl)c1C(=O)[O-:21].Clc1cccc(Cl)c1[O:10][H:20] 10=20;20,21=21",
"C[N:10]1CCOCC1.Cc1cc(/N=N/c2ccc(S([NH-])(=O)=O)cc2)cc(C(=O)[O-])c1[O:21][H:20]>>C[N+:10]1([H:20])CCOCC1.Cc1cc(/N=N/c2ccc(S([NH-])(=O)=O)cc2)cc(C(=O)[O-])c1[O-:21] 10=20;20,21=21",
"COC(O)[O-:10].S=C(c1ccccc1)[N:21](c1ccc(Br)cc1)[H:20]>>COC(O)[O:10][H:20].S=C(c1ccccc1)[N-:21]c1ccc(Br)cc1 10=20;20,21=21",
"NNC(=O)C[S:21][H:20].OCc1ccc(-c2c3[nH]c4ccccc4c3cc[n:10]2)o1>>NNC(=O)C[S-:21].OCc1ccc(-c2c3[nH]c4ccccc4c3cc[n+:10]2[H:20])o1 10=20;20,21=21",
"N#CC(C#N)=[N:10]Nc1ccccc1Cl.O=C(c1cccc[nH+]1)[O:21][H:20]>>N#CC(C#N)=[N+:10](Nc1ccccc1Cl)[H:20].O=C(c1cccc[nH+]1)[O-:21] 10=20;20,21=21",
"C1CC[NH:10]CC1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C1CC[NH+:10]([H:20])CC1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"Cc1cc(C[NH3+])c([O:21][H:20])c(C[NH3+])c1.O=C1C=C(S(=O)(=O)[O-])NC(=O)[N-:10]1>>Cc1cc(C[NH3+])c([O-:21])c(C[NH3+])c1.O=C1C=C(S(=O)(=O)[O-])NC(=O)[N:10]1[H:20] 10=20;20,21=21",
"CCN[N:10](C)CC.N#CC1=C[N+:21]2([H:20])CCC1CC2>>CCN[N+:10](C)(CC)[H:20].N#CC1=C[N:21]2CCC1CC2 10=20;20,21=21",
"CC(=O)OC(C)C[N+:21](C)(C)[H:20].Cc1ccc(CNCC[NH2:10])cc1>>CC(=O)OC(C)C[N:21](C)C.Cc1ccc(CNCC[NH2+:10][H:20])cc1 10=20;20,21=21",
